US08633175B2
3-(3-bromophenyl)-5-isoxazolamine
To a solution of 3-(3-bromophenyl)-3-oxopropanenitrile (1.12 g; 5.00 mmol; Note 1) in EtOH (20 mL) was added a solution of hydroxylamine hydrochloride (1.74 g; 25 mmol) and NaOAc (2.46 g; 30 mmol) in water (20 mL). The mixture was heated under reflux for 1 h, cooled and concentrated in vacuo. The residue was slurried in 1N NaOH and extracted with Et2O (×1). The organic layer was washed (water, brine), dried over Na2SO4 and concentrated in vacuo affording the title compound as a pale yellow solid which was used without further purification. LC/MS (method B) 2.21 min, m/z 239, 241 (Br isotopes).

reactant | 3-(3-bromophenyl)-3-oxopropanenitrile | 5.00 mmol, 1.12 g | BrC=1C=C(C=CC1)C(CC#N)=O | C9H6BrNO
reactant | hydroxylamine hydrochloride | 25 mmol, 1.74 g | Cl.NO
reactant | NaOAc | 30 mmol, 2.46 g | CC(=O)[O-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | water | 20 mL | O | H2O
product | 3-(3-bromophenyl)-5-isoxazolamine | BrC=1C=C(C=CC1)C1=NOC(=C1)N | C9H7BrN2O
